US06150549
A one-liter autoclave equipped with a stirrer was charged in a nitrogen atmosphere with 55 grams (0.56 mol) of 2,4-dimethyl-3-pentene, 148 grams (1.1 mol) of trichlorosilane and 17 grams (70 mmols) of 1,1'-azobis(cyclohexane-1-carbonitrile) and the mixture was reacted at a temperature of 130° C. for 4 days. The resulting reaction mixture was purified by distillation thereby obtaining 117 grams (0.50 mol) of 2,4-dimethyl-3-trichlorosilylpentane. The structure of the resulting product was identified by 1HNMR.

reactant | 2,4-dimethyl-3-pentene | 0.56 mol, 55 grams | CC(C)C=C(C)C | C7H14
reactant | trichlorosilane | 1.1 mol, 148 grams | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,1'-azobis(cyclohexane-1-carbonitrile) | 70 mmols, 17 grams | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 2,4-dimethyl-3-trichlorosilylpentane | 0.50 mol, 117 grams, Yield: 89% | CC(C)C(C(C)C)[Si](Cl)(Cl)Cl | C7H15Cl3Si
